US07563910B2
Preparation of 5-methyl-2-(4-trifluoromethoxy-phenyl)-1H-imidazole-4-carboxylic acid
To 11.0 g of 5-methyl-2-(4-trifluoromethoxy-phenyl)-1H-imidazole-4-carboxylic acid ethyl ester in 40 ml of ethanol was added 40 ml of a 2N—NaOH solution and the reaction mixture was stirred at 100° C. for 17 hours. After such time the reaction mixture was cooled to +5° C. and treated with 80 ml of a 1N HCl solution. The precipitate was filtered, washed with water and dried under high vacuo to yield 8.3 g of a white powder.

reactant | 5-methyl-2-(4-trifluoromethoxy-phenyl)-1H-imidazole-4-carboxylic acid ethyl ester | 11.0 g | C(C)OC(=O)C=1N=C(NC1C)C1=CC=C(C=C1)OC(F)(F)F | C14H13F3N2O3
reactant | NaOH | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 5-methyl-2-(4-trifluoromethoxy-phenyl)-1H-imidazole-4-carboxylic acid | 8.3 g | CC1=C(N=C(N1)C1=CC=C(C=C1)OC(F)(F)F)C(=O)O | C12H9F3N2O3
